Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@:3]1([H:14])[C:4][C:5]([H:12])([H:13])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9],86.46578561121592
[N-:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C+:6]1[H:11].[O:1]([H:7])[H:12]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],40.905167851463894
[C-:4]#[O+:5].[C:1]([C:2]([O:3][H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O:3][C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],43.440653741228616
[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9]>>[H:8][H:9].[N-:1]=[C:2]1[C:3]([H:10])=[N+:4]([H:11])[C:5]([O:6][H:12])=[N:7]1,81.8018504533974
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N-:1]([C+:2]([O-:5])[C:7](=[C:6]([N+:4]#[N:3])[H:9])[H:10])[H:8],74.9911006264804
[O:1]=[N:4][C:3]#[C:2][H:5]>>[O:1]=[C:2]([C:3]#[N:4])[H:5],62.3664122032406
[C:1]([C@@:2]([C-:3]([H:12])[H:13])([C@@:4]1([H:14])[C:5]([H:15])([H:16])[C+:6]=[C:7]1[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],7.544209695956994
[C:1](=[C:2]([H:9])[H:10])([H:6])[H:8].[C:3](=[C:4]=[N:5][H:7])([H:11])[H:12]>>[C:1]([C:2]([C:3]([C:4]#[N:5])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],13.265537272005396
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O+:4]=[C-:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:15])([H:16])([H:17])[H:18],72.871962193129
[O:1]([C:3]1=[C:4]([C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])[C:2]1([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],68.77837320457306
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1]([C-:2]=[C:7]([C:6]#[O+:5])[H:10])([H:8])[H:9].[N:3]#[N:4],45.4842349525708
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6](=[C:7])[H:13])[H:11])([H:8])([H:9])[H:10],44.3420433236144
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1](=[C:2]1[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])[H:9].[H:8][H:10],111.05524050297
[C:1]([C:2](=[C:3]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8].[C:4]([O:5][H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8],73.8362506256982
[O:1]1[C:2]([H:7])=[C:3]([H:8])[O:4][C:5]([H:9])=[C:6]1[H:10]>>[O:1]1[C@@:2]2([H:7])[C@:3]3([H:8])[O:4][C@@:5]2([H:9])[C@:6]13[H:10],38.04770772269413
[C:1]([C-:2]=[C:6]=[C+:7][H:14])([H:8])([H:9])[H:10].[C:3]([C:4]#[N:5])([H:11])([H:12])[H:13]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],8.063801935532908
[C:1]([C:2]1=[C:3]([O:6][H:14])[C@@:4]1([C:5]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9],57.6752546883255
[C:1]([C:2](=[O:3])[C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[H:9].[C:2](=[O:3])=[C:4]([H:8])[H:10],80.4991937881416
[C:1]([H:7])([H:8])([H:9])[H:10].[O-:2][C:3](=[O:4])[C+:5]([N:6]([H:12])[H:13])[H:11]>>[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],49.3572799553851
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C:2]([C:3]([C:4]([O:5][H:12])=[C:6]([H:13])[H:14])([H:10])[H:11])=[C:7]([H:9])[H:15])[H:8],77.0183521527691
[O-:1][C:3](=[C:4]([N:5]([C+:6]([C:2]#[N:7])[H:11])[H:10])[H:9])[H:8]>>[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1,86.1066297138797
[N:1]1([H:7])[C@@:2](/[C:6](=[N:5]\[H:11])[H:12])([H:8])[C@@:3]1([C:4][H:10])[H:9]>>[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]1([H:9])[C@@:4]1([H:10])[N:5]([H:11])[C@@:6]21[H:12],19.566542232021998
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9].[H:12][H:13],79.1930642227322
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C:3]1[C:4]([H:11])([H:12])[C@:7]1([C:6]([C-:5]([H:13])[H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10],100.956933976513
[C:1]([C:2]([C:3](=[C:4]=[N:5][H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:6]#[N:7]>>[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],58.847454838565824
